US05885548
a) N-Benzyloxycarbonyl-3-[4-(1,4,7-trioxaoctyl)-phenyl]-alanine-methyl ester
6.59 g (20 mmol) of N-benzyloxycarbonyl-tyrosine-methyl ester is dissolved in 25 ml of anhydrous N,N-dimethylformamide and mixed at 0° C. under argon with 0.81 g (20.5 mmol) of sodium hydride dispersion (60% in mineral oil). The batch is allowed to stir for 10 minutes, then 3.75 g (20.5 mmol) of 1-bromo-2-(2-methoxyethoxy)-ethane is added, the reaction temperature is allowed to increase to room temperature and stirred for another three hours. For working-up, the batch is taken up in toluene and shaken out several times against aqueous sodium bicarbonate solution. The organic phase is separated, dried on magnesium sulfate, filtered and concentrated by evaporation. The oily residue is chromatographed for purification on silica gel with hexane/diethyl ether/triethylamine.

reactant | N-benzyloxycarbonyl-tyrosine-methyl ester | 20 mmol, 6.59 g | COC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)O)=O | C18H19NO5
reactant | sodium hydride | 20.5 mmol, 0.81 g | [H-].[Na+]
reactant | 1-bromo-2-(2-methoxyethoxy)-ethane | 20.5 mmol, 3.75 g | BrCCOCCOC | C5H11BrO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-Benzyloxycarbonyl-3-[4-(1,4,7-trioxaoctyl)-phenyl]-alanine-methyl ester | COC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)OCCOCCOC)=O | C23H29NO7
